US09102673B2
Step 1: Methyl 4-(3-ethoxyphenyl)-1-[2-(4-hydroxyphenoxy)ethyl]-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
Methyl 1-[2-(4-tert-butoxyphenoxy)ethyl]-4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (900 mg, 1.842 mmole) was taken up in TFA (10 mL) at RT. After 3 hr the mixture was concentrated. The residue was taken up in saturated NaHCO3 and extracted with EtOAc (3 x). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column chromatography (Biotage-SNAP-25 g SiO2, 50% EtOAc/hexanes) gave the title compound (637 mg, 80%) as an off-white solid. 1H NMR (400 MHz, CDCl3): δ 8.49 (d, J=6.0 Hz, 1 H); 7.60 (s, 1 H); 7.52-7.38 (m, 4 H); 7.01 (dd, J=8.2, 2.5 Hz, 1 H); 6.68-6.60 (m, 3 H); 5.72 (s, 1 H); 4.97-4.91 (m, 2 H); 4.33-4.27 (m, 2 H); 4.12 (dd, J=13.9, 7.0 Hz, 2 H); 3.93 (s, 3 H); 1.43 (t, J=7.0 Hz, 3 H).

reactant | Methyl 1-[2-(4-tert-butoxyphenoxy)ethyl]-4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 1.842 mmole, 900 mg | C(C)(C)(C)OC1=CC=C(OCCN2C(=CC=3C(=NC=CC32)C3=CC(=CC=C3)OCC)C(=O)OC)C=C1 | C29H32N2O5
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Methyl 4-(3-ethoxyphenyl)-1-[2-(4-hydroxyphenoxy)ethyl]-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 637 mg, 80% | C(C)OC=1C=C(C=CC1)C1=NC=CC2=C1C=C(N2CCOC2=CC=C(C=C2)O)C(=O)OC | C25H24N2O5
